US06096782
Synthesis of N-[N-(3,5-dichlorophenyl)-L-alanyl]-L-phenylalanine methyl ester
Following General Procedure D and using N-(3,5-dichlorophenyl)-D,L-alanine and L-phenylalanine methyl ester hydrochloride (Sigma), the title compound was prepared. The reaction product was purified by silica gel chromatography using 50% ethyl acetate/hexane.

reactant | N-(3,5-dichlorophenyl)-D,L-alanine | ClC=1C=C(C=C(C1)Cl)NC(C)C(=O)O | C9H9Cl2NO2
reactant | L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
product | N-[N-(3,5-dichlorophenyl)-L-alanyl]-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC1=CC(=CC(=C1)Cl)Cl)C)=O)CC1=CC=CC=C1)=O | C19H20Cl2N2O3
